US05258513
A mixture of 4.0 g (32.3 mmoles) of N-cyano-N'-cyclopropylguanidine and 3.98 g (32.3 mmoles) of morpholine hydrochloride is heated at 160° C. under a nitrogen atmosphere for 2 and a half hours. The solid mass obtained is dissolved in 200 ml of boiling isopropyl alcohol. The mixture is filtered hot and the filtrate is concentrated until a solid suspension appears. The mixture is then cooled to room temperature and 200 ml of diethyl ether are added. The reaction product crystallizes. It is filtered, washed with diethyl ether and dried. 6.8 g of N-]imino(cyclopropylamino)methyl]-4-morpholinecarboximidamide hydrochloride are obtained. Yield: 85%. M.P.: 195°-196° C.

reactant | N-cyano-N'-cyclopropylguanidine | 32.3 mmoles, 4.0 g | C(#N)NC(=N)NC1CC1 | C5H8N4
reactant | morpholine hydrochloride | 32.3 mmoles, 3.98 g | Cl.N1CCOCC1
solvent | isopropyl alcohol | 200 ml | C(C)(C)O | C3H8O
product | 4-morpholinecarboximidamide hydrochloride | Yield: 85% | Cl.N1(CCOCC1)C(N)=N | InChI=1S/C5H11N3O.ClH/c6-5(7)8-1-3-9-4-2-8;/h1-4H2,(H3,6,7);1H
